US05958935
6-Methyl-4-phenoxy-N-(3,4,5-trimethoxyphenyl)pyrimidine-2-amine
4-Chloro-6-methyl-N-(3,4,5-trimethoxyphenyl)pyrimidine-2-amine (0.30 g, 0.97 mmol) was added to a solution of sodium phenoxide (0.97 mmol) [prepared from phenol (0.091 g, 0.97 mmol) and NaH (60% in mineral oil; 0.039 g, 0.97 mmol)], and heated to 80° for 17 h with stirring. Water was added and the mixture was extracted with CH2CH2 (2×30 ml), the organic phases were dried (MgSO4) and evaporated to a yellow oil. The residue was subjected to chromatography (silica, 2% methanol/CH2CH2) to give the title compound (0.046 g). A portion was recrystallised from methanol to give an off white crystalline solid m.p. 175°. δH (CDCl3) 2.38 (3H, s), 3.64 (6H, s), 3.77 (3H, s), 6.19 (1H, s), 6.78 (2H, s), 6.95 (1H, s), 7.15 (2H, d, J 7.5 Hz), 7.23 (1H, m) and 7.39 (2H, t, J 7.5 Hz).

reactant | 4-Chloro-6-methyl-N-(3,4,5-trimethoxyphenyl)pyrimidine-2-amine | 0.97 mmol, 0.30 g | ClC1=NC(=NC(=C1)C)NC1=CC(=C(C(=C1)OC)OC)OC | C14H16ClN3O3
reactant | sodium phenoxide | 0.97 mmol, 0.091 g | [O-]C1=CC=CC=C1.[Na+]
solvent | Water | O | H2O
product | 6-Methyl-4-phenoxy-N-(3,4,5-trimethoxyphenyl)pyrimidine-2-amine | 0.046 g | CC1=CC(=NC(=N1)NC1=CC(=C(C(=C1)OC)OC)OC)OC1=CC=CC=C1 | C20H21N3O4
